US04009129
1. Preparation of 2-ethylacrylate-4-(4-hydroxybutyl)-1,3-dioxolane,
A solution of 172.2 grams (1 mole) of 2-vinyl-4(4-hydroxybutyl)-1,3-dioxolane (Comonomer B herein), 72.1 grams (1 mole) of acrylic acid and 0.1 gram of p-toluenesulfonic acid in 5 ml. of 1,2-dimethoxyethane was heated for 10 hours at 50°-60° C. After adding water (150 ml) and dichloromethane (200 ml), the non aqueous layer was washed successively with 100 ml. of 5 per cent sodium bicarbonate and two 100-ml. portions of water, and was then dried over magnesium sulfate. Hydroquinone (0.5 gram) stabilizer was added, the magnesium sulfate removed by filtration and the solvent evaporated under reduced pressure. The resulting oil was distilled through a 6-inch Vigreaux column to give 46.2 grams (19 weight per cent yield) of colorless product having a boiling point of 83°-87° C. at 1 mm. pressure. Upon analysis, the product was found to contain 62.28and 9.12 weight per cent of carbon and hydrogen, respectively. The corresponding calculated values, based on the empirical formula, C12H20O5, are 59.00 and 8.25.

reactant | 2-vinyl-4(4-hydroxybutyl)-1,3-dioxolane | 1 mole, 172.2 grams | C(=C)C1OCC(O1)CCCCO | C9H16O3
reactant | acrylic acid | 1 mole, 72.1 grams | C(C=C)(=O)O | C3H4O2
reactant | p-toluenesulfonic acid | 0.1 gram | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | hydrogen | [H][H] | H2
reactant | water | 150 ml | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | 2-ethylacrylate 4-(4-hydroxybutyl)-1,3-dioxolane | C(C)C(C(=O)[O-])=C.OCCCCC1OCOC1 | InChI=1S/C7H14O3.C5H8O2/c8-4-2-1-3-7-5-9-6-10-7;1-3-4(2)5(6)7/h7-8H,1-6H2;2-3H2,1H3,(H,6,7)/p-1
